Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo ___ M with PMHx HLD presenting with 2 days of
general malaise. On morning of admission, the patient noted
fatigue, nausea, weakness, headache, SOB, constipation, 
bloating,
poor appetite. He was at work today (___) and developed
worsening lower extremity pain (L>R) in addition to headache  
and
light sensitivity. Daughter noted him to be confused and drove
him to the ED. In route to the ED, he developed neck pain, 
fevers
and chills.

At baseline, patient is independent and works every day steaming
clothes. He ambulates independently.

- In the ED, initial vitals were: temp 99.6, HR 85, BP 135/80, 
RR
20, 100% RA 
 
- Exam was notable for:
Gen: Ill appearing, shivering
HEENT: PERRLA, EOMI. Stiff neck with chin to chest.
CV: RRR, no r/m/g
Resp: CTAB
Abd: Nondistended, soft, nontender
Neuro: CN2-12 intact

- Labs were notable for: Hg 12.9, WBC 11.7, plt 146, LFTs wnl,
BUN 21, Cr 1.1, lactate 1.3.

- Studies were notable for: CSF with 0 WBCs, 1 RBC, Poly 1, 
Lymph
70, Mono 29, Protein 46, Glucose 63.

LP without WBCs and no PMNs on gram stain -- STOPPING ABX, but
continue acyclovir for now

- The patient was given: 1 L LR, Ceftriaxone 2g IV Q12h,
Vancomycin 1g IV Q12h, Ampicillin 2g IV Q4h, Acyclovir 600mg IV
q8h.

- ___ was consulted for LP as patient had unsuccessful LP in the
ED.

On arrival to the floor, patient notes worsening weakness on day
of admission. He endorses ___ leg pain which he describes as
cramping that has been ongoing for several years (of note, he 
was
switched from simvastatin to atorvastatin recently so presumably
___ statin).  He denies SOB, CP, urinary symptoms, nausea,
vomiting, blurry vision, headache, cough, neck stiffness,
cold-like symptoms at this time. He note headache earlier was
diffuse and bilateral and went from forehead to posterior aspect
of head but resolved following Tylenol. He also previously had
nausea but no vomiting. He endorses ongoing abdominal bloating
(for the past few years) but no abdominal pain. Per daughter,
patient was confused earlier in the day but no longer with
confusion.

REVIEW OF SYSTEMS:
==================
Per HPI, otherwise, 10-point review of systems was within normal
limits.

 
Past Medical History:
HLD
Hypothyroidism
Urinary retention
 
Social History:
___
Family History:
No family hx of urologic pathology

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
========================
VITALS:24 HR Data (last updated ___ @ ___)
    Temp: 99.0 (Tm 99.0), BP: 131/74, HR: 67, RR: 18, O2 sat: 
97%
(96-97), O2 delivery: 1L NC (1L NC-2l)  

GENERAL: Alert and interactive. In no acute distress.
HEENT: PERRL, EOMI. Sclera anicteric and without injection. MMM.
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No 
murmurs/rubs/gallops.
LUNGS: Bibasilar crackles. No wheezes, rhonchi or rales. No 
increased work of breathing.
ABDOMEN: +distention. Normal bowels sounds, non-tender to deep 
palpation in all four quadrants. 
EXTREMITIES: No clubbing, cyanosis, or edema. Pulses DP/Radial 
2+ bilaterally. +varicose veins ___ ___. negative ___ sign.
SKIN: Warm. Cap refill <2s. No rashes.
NEUROLOGIC: AOx3. CN2-12 intact. Moving all 4 limbs 
spontaneously. ___ strength throughout. Normal sensation. 
Negative Brudzinski's sign.

DISCHARGE PHYSICAL EXAM:
========================
98.1 PO BP: 138/85 L Lying HR: 53 RR: 20 O2 sat: 95% O2 
delivery: Ra 
GENERAL: Alert, sitting up on bed, comfortable appearing.
HEENT: Sclera anicteric and without injection. MMM.
CARDIAC: RRR, no R/M/G.
LUNGS: Bibasilar crackles. No wheezes, rhonchi. No increased 
work of breathing.
ABDOMEN: S/NT. Obese.
EXTREMITIES: No clubbing, cyanosis, or edema. +varicose veins ___ 
___. 
SKIN: Warm. No observed erythematous or ring-shaped rashes on 
whole body skin exam.
NEUROLOGIC: AOx3. Moving all 4 limbs spontaneously.
 
Pertinent Results:
ADMISSION LABS
=======================
___ 01:38PM BLOOD WBC-11.7* RBC-4.14* Hgb-12.9* Hct-39.9* 
MCV-96 MCH-31.2 MCHC-32.3 RDW-13.0 RDWSD-46.3 Plt ___
___ 01:38PM BLOOD Neuts-87.3* Lymphs-6.1* Monos-5.8 
Eos-0.2* Baso-0.2 Im ___ AbsNeut-10.17* AbsLymp-0.71* 
AbsMono-0.68 AbsEos-0.02* AbsBaso-0.02
___ 04:37PM BLOOD ___ PTT-30.5 ___
___ 01:38PM BLOOD Glucose-117* UreaN-21* Creat-1.1 Na-139 
K-4.5 Cl-103 HCO3-23 AnGap-13
___ 01:38PM BLOOD ALT-13 AST-23 CK(CPK)-186 AlkPhos-47 
TotBili-0.5
___ 01:38PM BLOOD Albumin-4.4

RELEVANT LABS
=======================
___ 05:45AM BLOOD Parst S-NEGATIVE
___ 01:15PM BLOOD Parst S-NEGATIVE
___ 06:05AM BLOOD Parst S-NEGATIVE
___ 06:05AM BLOOD Ret Aut-0.9 Abs Ret-0.04
___ 06:05AM BLOOD LD(LDH)-143 DirBili-<0.2
___ 06:05AM BLOOD Hapto-173

RELEVANT IMAGING
=======================
___ CXR PA/LAT
Low lung volumes with patchy opacities in the lung bases, 
findings which could reflect atelectasis with aspiration or 
infection not excluded in the correct clinical setting. 

___ CTA HEAD/NECK
1. No acute finding. 
2. Patent intracranial and cervical vasculature. 

___ LP WITH FLUOROSCOPIC GUIDANCE
Successful fluoroscopy guided lumbar puncture at L3-L4 without 
immediate 
complications. 

___ CT UROGRAM ABDOMEN/PELVIS WITH AND WITHOUT CONTRAST
1. Intravesical lesion for which a cystoscopy is recommended to 
assess for 
neoplasia. 
2. Prominent inguinal lymph nodes retaining a benign 
configuration. 
RECOMMENDATION(S):  Cystoscopy. 

DISCHARGE LABS
=======================
___ 05:45AM BLOOD WBC-5.0 RBC-3.83* Hgb-12.0* Hct-36.5* 
MCV-95 MCH-31.3 MCHC-32.9 RDW-12.9 RDWSD-45.1 Plt ___
___ 05:45AM BLOOD Glucose-101* UreaN-13 Creat-0.9 Na-142 
K-4.1 Cl-107 HCO3-23 AnGap-12
___ 05:45AM BLOOD Calcium-8.6 Phos-2.8 Mg-2.0
 
Brief Hospital Course:
====================
HOSPITAL SUMMARY
====================
___ ___ who presented with 2 days of acute-onset 
malaise, weakness, and low-grade temperatures, which was most 
concerning for tick-borne illness given his exposure history. He 
was initially on broad-spectrum meningitis coverage (vanc, 
ceftriaxone, ampicillin, acyclovir) which was stopped once LP 
CSF studies came back with bland cell counts. He clinically 
improved and was discharged home to finish a course of 
doxycycline.

====================
ACUTE ISSUES:
====================
# Presumed tick-borne illness
Presented with 2 days of acute-onset malaise, weakness, and 
low-grade temperatures, and possible confusion. Initially had 
headache as well. Initial c/f meningitis and put on 
vancomycin/ceftriaxone/ampicillin and acyclovir. Underwent LP 
which did not any total nucleated cells in tube #4, normal 
glucose, and mildly elevated protein, not consistent with 
meningitis. Per further history, it was discovered that he lived 
near the ___ and potentially had been exposed to a tick one 
week prior. No rashes. As such, put on doxycycline 100mg BID for 
10 day course. Lyme serologies, Anaplasma PCR, and CSF 
cultures/PCR pending at time of discharge.

# Hypoxia
At times required ___ oxygen, quickly weaned off. Etiology 
unclear. Given significant smoking history, may benefit from 
outpatient PFTs.

# Microscopic hematuria
Noted incidentally on admission UA and in ___. Given 
significant smoking history and possible exposure to hazardous 
chemicals through work in ___, underwent CT urogram, 
which showed a 5mm polypoid lesion in the bladder that may 
benefit from cystoscopy.

====================
CHRONIC ISSUES:
====================
# Urinary retention
# BPH
Continued home terazosin, oxybutynin.

# HLD
Continued home atorvastatin.

# Hypothyroidism
Continued home levothyroxine.

# Anemia
# Thrombocytopenia
Plt slightly down from baseline. Anemia appears stable based on 
OMR. Would benefit from outpatient follow-up.

====================
TRANSITIONAL ISSUES
====================
[] Doxycycline: Last day will be ___.
[] Would benefit from cystoscopy for 5mm polypoid lesion in the 
bladder.
[] Noted to have 9 mm cyst in the interpolar right kidney and a 
smaller 
hypodensity in the lower pole of the right kidney. ___ benefit 
from follow up of these.
[] Has splenic cyst. ___ benefit from follow up.
[] Given smoking history, may benefit from repeat PFTs as well 
as OSA testing.
[] Labs pending at discharge include Lyme serologies, Anaplasma 
PCR, and CSF HSV PCR and cultures.
[] Would monitor for monitoring of platelet and hgb. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Terazosin 5 mg PO QHS 
2. Atorvastatin 10 mg PO QPM 
3. Oxybutynin 5 mg PO TID 
4. Levothyroxine Sodium 150 mcg PO DAILY 

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild/Fever 
RX *acetaminophen 500 mg ___ tablet(s) by mouth every eight (8) 
hours Disp #*30 Tablet Refills:*0 
2.  Doxycycline Hyclate 100 mg PO Q12H Duration: 10 Days 
RX *doxycycline hyclate 100 mg 1 capsule(s) by mouth twice a day 
Disp #*16 Tablet Refills:*0 
3.  Atorvastatin 10 mg PO QPM  
4.  Levothyroxine Sodium 150 mcg PO DAILY  
5.  Oxybutynin 5 mg PO TID  
6.  Terazosin 5 mg PO QHS  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
# Presumed tick-borne infection
# Hypoxic respiratory failure
# Microscopic hematuria

SECONDARY DIAGNOSES
# Urinary retention secondary to BPH
# HLD
# Hypothyroidism

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

It was our pleasure taking care of you at the ___ 
___!

WHAT BROUGHT YOU TO THE HOSPITAL?
- You developed fatigue, malaise, and leg weakness suddenly.

WHAT HAPPENED IN THE HOSPITAL?
- There was initial concern that you had meningitis. You 
underwent a spinal tap, which did not show an infection.
- We believe you contracted an infection from a tick. To treat 
this, we started you on an antibiotic called doxycycline.
- We discovered that you have a small amount of blood in your 
urine. You underwent a CT scan, which showed a very small (5mm) 
mass in the bladder. It is not known what this is. Your primary 
doctor may recommend that you need to undergo further procedures 
to follow up on this.

WHAT SHOULD YOU DO ONCE YOU LEAVE THE HOSPITAL?
- Please take your medications as prescribed and attend your 
doctor's appointments.
- Please avoid the sun for 1.5 weeks, until ___. The 
doxycycline makes you much more prone to sunburns, which can be 
dangerous.

We wish you all the best!
Your ___ Care Team
 
Followup Instructions:
___